US08445679B2
Ethyl 4-bromo-5-methyl-1H-pyrazole-3-carboxylate
Ethyl 5-methyl-1H-pyrazole-3-carboxylate (3.24 g) in CH3CN (25 mL) was treated with N-bromosuccinimide (3.92 g) at 0° C. The solution was stirred at room temperature for 2 hours. The solvent was removed, and the residue was purified by flash chromatography on silica gel (ethyl acetate in hexanes) to give the title compound. 1H NMR (500 MHz, DMSO-d6): 13.61 (s, 1H), 4.27 (q, J=6.75 Hz, 2H), 2.21 (s, 3H), 1.28 (t, J=7.06 Hz, 3H).

reactant | Ethyl 5-methyl-1H-pyrazole-3-carboxylate | 3.24 g | CC1=CC(=NN1)C(=O)OCC | C7H10N2O2
reactant | N-bromosuccinimide | 3.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | Ethyl 4-bromo-5-methyl-1H-pyrazole-3-carboxylate | BrC=1C(=NNC1C)C(=O)OCC | C7H9BrN2O2
